US06369273B1
4-Amino-3-fluorobenzophenone
To stirred polyphosphoric acid (125 g) at 90° C. was added benzoic acid (18.32 g) and 2-fluoroaniline (8.33 g) and the bath temperature was raised to 200° C. for 1 hour. The heating bath was removed and the stirred mixture was treated cautiously with water (60 ml). The mixture was stirred at 140-160° C. for 1 hour, the heating bath was removed, and 3M hydrochloric acid was added (50 ml). The mixture was poured into water (750 ml) and filtered through diatomaceous earth with a dichloromethane wash. The filtrate was made basic with 15% sodium hydroxide and the mixture was again filtered through diatomaceous earth with a dichloromethane wash. The combined dichloromethane extracts were washed (saturated aqueous sodium hydrogen carbonate), dried, filtered, and evaporated. Chromatography, with ether/hexanes (gradient, 10/90 to 50/50) as the eluent, followed by recrystallization from hexanes, yielded the title compound as a light yellow solid (7.48 g). M.p. 83-85° C.; MS: 216 (M+H); NMR (400 MHz): 6.27 (brs, 2H), 6.80 (t, 1H, J=8.6), 7.36 (q, 1H, J=8.4, 1.9), 7.41 (q, 1H, J=12.4, 1.9), 7.49-7.51 (m, 2H) 7.60-7.63 (m, 3H); EA: C13H10FNO requires C, 72.55; H, 4.68; N, 6.51%; found: C, 72.51; H, 4.82; N, 6.42%.

reactant | benzoic acid | 18.32 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-fluoroaniline | 8.33 g | FC1=C(N)C=CC=C1 | C6H6FN
product | 4-Amino-3-fluorobenzophenone | 7.48 g | NC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)F | C13H10FNO
